US08455488B2
Synthesis of (S)-tert-butyl 3-(2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetamido)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound II-28)
According to the procedure described in the synthesis method of Compound II-15, 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-3) 78 mg (0.33 mmol) was coupled with (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-4-oxobutanoate (Compound IV-16) 100 mg (0.22 mmol) to obtain the title compound.

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 0.33 mmol, 78 mg | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | (S)-tert-butyl 3-amino-4-(((S)-1,1-diethoxypropan-2-yl)-(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | 0.22 mmol, 100 mg | N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C26H38N2O5
product | (S)-tert-butyl 3-(2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetamido)-4-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-4-oxobutanoate | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)N[C@@H](CC(=O)OC(C)(C)C)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C37H51N5O7
